US08557983B2
4-(4-((2-(4-chlorophenyl)-4,4-dimethylcyclohex-1-enyl)methyl)piperazin-1-yl)-2-(6-hydroxypyridin-3-yloxy)-N-(3-nitro-4-((tetrahydro-2H-pyran-4-yl)methylamino)phenylsulfonyl)benzamide
To 2-(6-(benzyloxy)pyridin-3-yloxy)-4-(4-((2-(4-chlorophenyl)-4,4-dimethylcyclohex-1-enyl)methyl)piperazin-1-yl)-N-(3-nitro-4-((tetrahydro-2H-pyran-4-yl)methylamino)phenylsulfonyl)benzamide (0.132 g) in dichloromethane (1 mL) was added trifluoroacetic acid (0.33 mL) and the reaction was sealed in a vial under nitrogen and heated to 40° C. After stirring for 16 hours, the reaction was cooled, diluted with dichloromethane (50 mL) and washed with sodium carbonate (2×25 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated. Silica gel chromatography (GraceResolv 12 g) eluting with a gradient of 0.3% to 3% methanol/dichloromethane (Flow=36 mL/minute) over 30 minutes gave the title compound. 1H NMR (300 MHz, CDCl3) δ 12.51-11.38 (m, 1H), 9.78 (s, 1H), 8.89 (d, 1H), 8.52 (t, 1H), 8.19 (dd, 1H), 7.92 (d, 1H), 7.43-7.33 (m, 2H), 7.24 (d, 2H), 7.00-6.89 (m, 3H), 6.74-6.67 (m, 1H), 6.55 (dd, 1H), 6.00 (d, 1H), 4.00 (d, 2H), 3.42 (dd, 2H), 3.34-3.23 (m, 2H), 3.16 (s, 4H), 2.79 (s, 2H), 2.24 (d, 6H), 1.99 (s, 3H), 1.72 (s, 2H), 1.55-1.33 (m, 4H), 0.96 (s, 6H).

reactant | 2-(6-(benzyloxy)pyridin-3-yloxy)-4-(4-((2-(4-chlorophenyl)-4,4-dimethylcyclohex-1-enyl)methyl)piperazin-1-yl)-N-(3-nitro-4-((tetrahydro-2H-pyran-4-yl)methylamino)phenylsulfonyl)benzamide | 0.132 g | C(C1=CC=CC=C1)OC1=CC=C(C=N1)OC1=C(C(=O)NS(=O)(=O)C2=CC(=C(C=C2)NCC2CCOCC2)[N+](=O)[O-])C=CC(=C1)N1CCN(CC1)CC1=C(CC(CC1)(C)C)C1=CC=C(C=C1)Cl | C50H55ClN6O8S
reactant | trifluoroacetic acid | 0.33 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-(4-((2-(4-chlorophenyl)-4,4-dimethylcyclohex-1-enyl)methyl)piperazin-1-yl)-2-(6-hydroxypyridin-3-yloxy)-N-(3-nitro-4-((tetrahydro-2H-pyran-4-yl)methylamino)phenylsulfonyl)benzamide | ClC1=CC=C(C=C1)C1=C(CCC(C1)(C)C)CN1CCN(CC1)C1=CC(=C(C(=O)NS(=O)(=O)C2=CC(=C(C=C2)NCC2CCOCC2)[N+](=O)[O-])C=C1)OC=1C=NC(=CC1)O | C43H49ClN6O8S
